US06313122B1
A. Methyl 3-[(4-Methoxybenzoyl)amino]-4-aminobenzoate
A solution of methyl 3,4-diaminobenzoate hydrochloride (1.43 g, 6.00 mmol) in acetonitrile (100 mL) was cooled to 0° C. and treated with water (15 mL), pyridine (0.97 mL, 12 mmol), and a solution of p-anisoyl chloride (1.03 g, 6.00 mmol) in acetonitrile (25 mL). The reaction mixture was allowed to slowly warm to room temperature over 16 h. The resulting precipitate was collected and washed with acetonitrile to provide 1.07 g (59%) of the title compound.

reactant | methyl 3,4-diaminobenzoate hydrochloride | 6.00 mmol, 1.43 g | Cl.NC=1C=C(C(=O)OC)C=CC1N
reactant | water | 15 mL | O | H2O
reactant | pyridine | 12 mmol, 0.97 mL | N1=CC=CC=C1 | C5H5N
reactant | p-anisoyl chloride | 6.00 mmol, 1.03 g | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | Methyl 3-[(4-Methoxybenzoyl)amino]-4-aminobenzoate | 1.07 g, 59% | COC1=CC=C(C(=O)NC=2C=C(C(=O)OC)C=CC2N)C=C1 | C16H16N2O4
